US05217964
Step d: 1,19-Bis[(phenyl)methyl]-1,19-bis[(4-methylphenyl)sulfonyl]-6,14-bis(benzoyl)-1,6,14,19-tetraazanonadecane
Suspend sodium hydride (48 mg, 2 mmol) in anhydrous dimethylformamide (2 mL), cool to 0° C. and place under a nitrogen atmosphere. Add, by dropwise addition, a solution 1,19-bis[(4-methylphenyl)sulfonyl]-6,14-bis(benzoyl)-1,6,14,19-tetraazanonadecane (78 mg, 1 mmol) in dimethylformamide (2 mL). Stir until evolution of hydrogen ceases. Add, by dropwise addition, a solution of benzylbromide (34 mg, 2 mmol) in dimethylformamide (2 mL). Stir overnight at room temperature then carefully quench with saturated ammonium chloride. Extract into ethyl acetate, dry (MgSO4) and evaporate the solvent in vacuo. Purify by silica gel chromatogaphy to give the title compound.

reactant | sodium hydride | 2 mmol, 48 mg | [H-].[Na+]
reactant | 1,19-bis[(4-methylphenyl)sulfonyl]-6,14-bis(benzoyl)-1,6,14,19-tetraazanonadecane | 1 mmol, 78 mg | CC1=CC=C(C=C1)S(=O)(=O)NCCCCN(CCCCCCCN(CCCCNS(=O)(=O)C1=CC=C(C=C1)C)C(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O | C43H56N4O6S2
reactant | hydrogen | [H][H] | H2
reactant | benzylbromide | 2 mmol, 34 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1,19-Bis[(phenyl)methyl]-1,19-bis[(4-methylphenyl)sulfonyl]-6,14-bis(benzoyl)-1,6,14,19-tetraazanonadecane | C1(=CC=CC=C1)CN(CCCCN(CCCCCCCN(CCCCN(S(=O)(=O)C1=CC=C(C=C1)C)CC1=CC=CC=C1)C(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O)S(=O)(=O)C1=CC=C(C=C1)C | C57H68N4O6S2
